US09278950B2
Step 4. 3-Amino-N-{4-[(3R,4R,5S)-3-amino-4-hydroxy-5-methylpiperidin-1-yl]pyridin-3-yl}-7-morpholin-4-ylquinoline-2-carboxamide
A mixture of benzyl [2-({[4-((3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-1-yl)pyridin-3-yl]amino}carbonyl)-7-morpholin-4-ylquinolin-3-yl]carbamate (0.0035 g, 0.0042 mmol) in 3 mL of MeOH was hydrogenated under a balloon of hydrogen, in the presence of 3 mg of 10% Pd on carbon, at room temperature for 1 h. The reaction mixture was diluted with 5 mL of MeOH then filtered. The filtrate was concentrated under reduced pressure. The resulting residue was treated with 2 mL of MeOH and 2 mL of 4 M HCl in dioxane at room temperature for 1 h. The volatile solvents were removed under reduced pressure. The residue was dissolved in 4 mL of MeOH and treated with 0.5 mL of NH4OH solution, then filtered. The filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C25H32N7O3 [M+H]+: m/z=478.3. found: 478.3.

reactant | benzyl [2-({[4-((3R,4R,5S)-3-[(tert-butoxycarbonyl)amino]-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-1-yl)pyridin-3-yl]amino}carbonyl)-7-morpholin-4-ylquinolin-3-yl]carbamate | 0.0042 mmol, 0.0035 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCOCC1 | C44H59N7O7Si
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 3 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd on carbon | 3 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3R,4R,5S)-3-amino-4-hydroxy-5-methylpiperidin-1-yl]pyridin-3-yl}-7-morpholin-4-ylquinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@@H]([C@H](C1)C)O)N | C25H31N7O3
